US05047411
Conc. hydrochloric acid (1.1 ml) was added to a mixture of 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole (1.5 g) in ethanol (9 ml) and the mixture was stirred for 5 minutes at ambient temperature. The isolated crystal was collected by filtration and the resulting crystal was recrystallized from a mixture of ethanol and ethyl acetate to give 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole dihydrochloride (0.91 g).

reactant | hydrochloric acid | 1.1 ml | Cl | ClH
reactant | 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole | 1.5 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)N)C=C2 | C18H18N4O
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzoxazole dihydrochloride | 0.91 g | Cl.Cl.CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)N)C=C2 | InChI=1S/C18H18N4O.2ClH/c1-11-7-8-22-12(2)14(20-17(22)9-11)5-3-13-4-6-15-16(10-13)23-18(19)21-15;;/h4,6-10H,3,5H2,1-2H3,(H2,19,21);2*1H
